US04455366
To a mixture composed of 158 g (0.96 mol) of N-(β-chloropropanoyl)glycine thus obtained and 92 g (0.4 mol) of 6-amino-2,4-dichloro-3-methylphenol hydrochloride were added 228 ml (2.88 mol) of pyridine and 2 liters of acetonitrile and stirred under cooling. To the solution was added dropwise 95.2 g (0.8 mol) of thionyl chloride. After the completion of the reaction, water was added to the reaction solution and the crystals thus deposited were collected by filtration and recrystallized from acetonitrile to obtain 125.2 g of 6-[α-(β-chloropropanamido)acetamido]-2,4-dichloro-3-methylphenol.

reactant | N-(β-chloropropanoyl)glycine | 0.96 mol, 158 g | ClC(C(=O)NCC(=O)O)C | C5H8ClNO3
reactant | 6-amino-2,4-dichloro-3-methylphenol hydrochloride | 0.4 mol, 92 g | Cl.NC1=CC(=C(C(=C1O)Cl)C)Cl
reactant | pyridine | 2.88 mol, 228 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.8 mol, 95.2 g | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
solvent | acetonitrile | 2 liters | C(C)#N | C2H3N
product | 6-[α-(β-chloropropanamido)acetamido]-2,4-dichloro-3-methylphenol | 125.2 g | ClC(C(=O)NCC(=O)NC1=CC(=C(C(=C1O)Cl)C)Cl)C | C12H13Cl3N2O3
